datasets/10k_Mayr_OG.csv
SMILES Labelled
"F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.[H:10][CH:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.[CH+:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20"
"C[C:10](C)=[C:11]([O:12][Si:73](C)(C)C)[O:62]C.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[C:10](C)([C:11](=[O+:12][Si:73](C)(C)C)[O:62]C)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.C[N+:21](C1=CC=CC=C1)=[CH2:20]>>C[N:21](C1=CC=CC=C1)[CH2:20][N:10]1[C@H](C2=CC=CC=C2)CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.CC[O:72][C:61]([C:10](C)=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62]>>CC[O:72][C:61]([C:10](C)([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[CH:20]([CH:21]=[CH:22][N:23](CC1=CC=CC=C1)CC1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:62] 10,11=10,20;20,21=21,22;22,23=23"
C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28.[N:10]1=[CH:61][NH:62][CH:72]=[CH:71]1>>C[CH:20]([N+:10]1=[CH:61][NH:62][CH:72]=[CH:71]1)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10=20
"CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12].F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CC[O:62][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:12] 10,11=10,20;12=11,12"
"C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[H]/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC>>[H][C:10]([C:11](=[O:12])[O:61]CC)([C:20](C)(C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[N:14](C)[C:13]1=[C:12](Br)[CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:14](C)=[C:13]1[C:12](Br)=[CH:11][N:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42](C2=CC=CC=C2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14"
"CC[C:12]1=[C:13](C)[NH:14][CH:10]=[C:11]1C.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC[C:12]1=[C:11](C)[CH:10]([C:20]2(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]2=[O:33])[NH+:14]=[C:13]1C 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)O1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20;20,21=21,22;22,23=23"
"FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72]>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.C[C:63]([O:62][B-:11]([H:10])([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64]>>C1=CC=C([N:31]=[C:20]([H:10])[O-:21])C=C1.C[C:63]([O:62][B:11]([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64] 10,11=10,20;20,21=21"
"C1CC[C:20](=[O:21])CC1.[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62]>>C1CC[C:20]([CH:10]2[C:11](=[O:12])[NH:82][C:73](=[O:74])[NH:82][C:61]2=[O:62])([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[NH:10][N:61](C)C>>C[NH+:10]([CH:20]([N:21]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[N:61](C)C 10=20;20,21=21"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>CC[O:33][C:22](=[CH:21][CH2:20][CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[C:84](C)[CH:93]=[CH:92]1)[O-:23] 10=20;20,21=21,22;22,23=23"
